US05100897
Step 3: 2-Butyl-5-(2-chlorophenyl)-6-methylpyrimidin-4(3H)-one
A solution of 4.5 g valeramidine hydrochloride, 1.9 mg sodium methoxide, and 1.0 g ethyl 2-(2-chlorophenyl)acetoacetate in 20 mL DMF was heated to 150° C. for 20 hours. After cooling to room temperature, the reaction mixture was poured into a mixture of brine and saturated ammonium chloride solutions then was extracted three times with ether. The combined organic material was dried over MgSO4, stripped of solvent in vacuo, and MPLC'd in 40% ethyl acetate/hexane to give 212 mg of the title compound as a white solid, 37% yield. Rf 0.17 in 40% ethyl acetate/hexane; 1H NMR (300 MHz, CDCl3) δ7.55 (m, 1H), 7.38 (m, 2H), 7.26 (m, 1H), 4.64 (br s, 1H), 2.74 (3 line m, 2H), 2.11 (s, 3H), 1.79 (m, 2H), 1.42 (6 line m, 2H), 0.96 (t, 3H).

reactant | valeramidine hydrochloride | 4.5 g | Cl.C(CCCC)(=N)N
reactant | ethyl 2-(2-chlorophenyl)acetoacetate | 1.0 g | ClC1=C(C=CC=C1)C(C(=O)OCC)C(=O)C | C12H13ClO3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | brine | [Cl-].[Na+].O
catalyst | sodium methoxide | 1.9 mg | C[O-].[Na+]
product | 2-Butyl-5-(2-chlorophenyl)-6-methylpyrimidin-4(3H)-one | 212 mg, 37% yield | C(CCC)C1=NC(=C(C(N1)=O)C1=C(C=CC=C1)Cl)C | C15H17ClN2O
